US07056924B2
To a stirred solution of N-chlorosuccinimide (0.53 g, 4.00 mmol) in methylene chloride (20 mL) was added syn-4-fluorobenzaldoxime (0.56 g, 4.00 mmol) in one portion. The resulting mixture was stirred at room temperature for 3 hours. Propargyl acetate (0.10 g, 1.00 mmol) was then added in one portion, followed by triethylamine (0.28 mL, 2.00 mmol) in methylene chloride (5 mL) over a period of 20 min. The resulting mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure, and the residue was purified by prep-TLC (ethyl acetate:hexanes=1:4) to give [3-(4-fluorophenyl)isoxazol-5-yl]methyl acetate.

reactant | N-chlorosuccinimide | 4.00 mmol, 0.53 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | syn-4-fluorobenzaldoxime | 4.00 mmol, 0.56 g | C1=CC(=CC=C1/C=N/O)F | C7H6FNO
reactant | Propargyl acetate | 1.00 mmol, 0.10 g | C(C)(=O)OCC#C | C5H6O2
reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [3-(4-fluorophenyl)isoxazol-5-yl]methyl acetate | C(C)(=O)OCC1=CC(=NO1)C1=CC=C(C=C1)F | C12H10FNO3
